US09102591B2
2-Chloro-N-[[4,4-difluoro-1-[6-(1-hydroxy-1-methyl-ethyl)-3-pyridyl]cyclohexyl]methyl]benzamide
From 2-chlorobenzoic acid and 2-[5-(1-aminomethyl-4,4-difluoro-cyclohexyl)-pyridin-2-yl]-propan-2-ol. LCMS (MH+): m/z=423.2, tR (minutes, Method F)=1.78

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2-[5-(1-aminomethyl-4,4-difluoro-cyclohexyl)-pyridin-2-yl]-propan-2-ol | NCC1(CCC(CC1)(F)F)C=1C=CC(=NC1)C(C)(C)O | C15H22F2N2O
product | 2-Chloro-N-[[4,4-difluoro-1-[6-(1-hydroxy-1-methyl-ethyl)-3-pyridyl]cyclohexyl]methyl]benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)C(C)(C)O)C=CC=C1 | C22H25ClF2N2O2
